US08629137B2
Step 2: 3-{1-[6-(4-benzyloxy-3,5-dimethyl-benzoyl)-pyrimidin-4-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
200 mg (0.730 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 240 mg (0.680 mmol) (4-benzyloxy-3,5-dimethyl-phenyl)-(6-chloro-pyrimidin-4-yl)-methanone and 0.400 mL (2.30 mmol) DIPEA were combined in 2.0 mL DMF and stirred for 3 h at RT. The mixture was added to ice water, the precipitate was suction filtered and dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 0.730 mmol, 200 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | (4-benzyloxy-3,5-dimethyl-phenyl)-(6-chloro-pyrimidin-4-yl)-methanone | 0.680 mmol, 240 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C(=O)C1=NC=NC(=C1)Cl)C | C20H17ClN2O2
reactant | DIPEA | 2.30 mmol, 0.400 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-{1-[6-(4-benzyloxy-3,5-dimethyl-benzoyl)-pyrimidin-4-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC3=C(CC2)C=C(C=C3)OC)=O)C=C1C)C | C35H37N5O4
